US07745462B2
A mixture of (2-aminoindan-2-yl)methanol (0.407 g, 2.50 mmol) and phthalic anhydride (0.369 g, 2.50 mmol) is heated at 160° C. for 40 minutes. The reaction mixture is poured into water and extracted with chloroform. The organic phase is dried (Na2SO4) and evaporated to afford 2-(2-hydroxymethylindan-2-yl)-isoindole-1,3-dione, MH+294.

reactant | (2-aminoindan-2-yl)methanol | 2.50 mmol, 0.407 g | NC1(CC2=CC=CC=C2C1)CO | C10H13NO
reactant | phthalic anhydride | 2.50 mmol, 0.369 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | water | O | H2O
product | 2-(2-hydroxymethylindan-2-yl)-isoindole-1,3-dione | OCC1(CC2=CC=CC=C2C1)N1C(C2=CC=CC=C2C1=O)=O | C18H15NO3
